Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Suicidal thoughts
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult
note:
"Patient reports coming to the hospital because campus police 
and
the resident life director were notified by her boyfriend that
she had been having suicidal thoughts.  Patient describes having
a "breakdown" and feeling like she is failing in everything.  
She
says she just wants to die and would be glad if she did not wake
up.  When she was driving with her grandfather, today she saw a
bridge and thought to herself that it would be the perfect place
to jump.  She says that the thought of dying is comforting
because she "will not have to deal with it anymore."  She says
before the police knocked on her door, she was planning to cut
herself.

Over the past 2 months, since starting ___ at ___ she
reports feeling very sad.  She endorses feeling down, depressed,
hopeless and helpless.  She also expresses significant feelings
of guilt.  Over the past 2 weeks, she has been cutting her left
wrist with a razor and says that it helps to take her mind off 
of
what is going on in her life.  In the moment, cutting makes her
feel better, but afterwards she has a lot of remorse and guilt. 
She reports sleeping most of the day and has skipped classes 2
days this week due to being unable to get out of bed.  She says
this is out of character for her.  She reports low energy,
feeling like she never wants to do anything, lack of motivation
and poor concentration.

Current stressors include a difficult relationship with her
mother, who she feels is controlling, and concerns that she has
been pushing her friends away and they do not want to spend time
with her because she is so sad.

She reports a similar episode of feeling depressed after moving
from ___ in ___.  At this time she did not tell her
___ that she was feeling and did not seek help.  She 
endorses
having suicidal ideation at this time and intermittently 
cutting.
She denies a history of decreased need for sleep, racing
thoughts, and increased goal-directed behavior.  She denies a
history of auditory and visual hallucinations.  She denies a
history of panic attacks.  She endorses a few instances of
intentional vomiting after eating large quantities of food and
feeling badly about it."

Note that ___ were notified of patient's presence in the ED
and "shocked" to learn she was experiencing suicidal thoughts. 
They deny any history of mental illness though did admit that
patient had recently attempted to communicate to ___ that 
she
might be depressed.  Agreed with decision to hospitalize for
further evaluation and safety.  See collateral note by Dr. 
___ dated ___ for additional details.

In the ED, patient was noted to be calm and cooperative and did
not require physical or chemical restraints.  She accepted
ramelteon 8 mg PO qHS with good effect and appeared to enjoy her
interactions with visitors including family and friends.

On interview on admission, pt largely corroborated above. She 
stated
"things have been hard" for the last 2 months since she started
___. She stated she's been struggling in classes, missing
class and then trying to attend but feeling unprepared and then
missing even more class. She also stated she's been having
challenges with her boyfriend. In this context, the last 2 
months
have seen a significant increase in the frequency of patient's
self-injurious behaviors, mostly pinching and cutting, which she
states happen multiple times per week. She states that last
___ night was particularly challenging: her boyfriend
yelled at her on the phone, and she began to engage in self
injurious behavior, stating she was about to cut herself when 
the
campus police knocked on her door (called by boyfriend). 
Pt states that she has had passive SI since middle school and
endorses a recent increase in the frequency of these thoughts.  

 
Past Medical History:
PAST MEDICAL HISTORY:
- Asthma

**PCP: ___

MEDICATIONS:
- ___ (OCP)
- Albuterol Inhaler PRN
 
Social History:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
Born in ___.  Came to the ___ in ___
and lived in ___ with her mother, father, and brother until
coming to ___ this year.  Her ___ still reside in
___.  She lived with her mother and brother in ___ until ___ when her mom moved to ___(father
was already here) and patient lived with her grandparents rom
___.  She is currently a first year student at ___, planning to study ___.  Lives in the dorm
with 2 roommates with whom she gets along well.  Her 
grandparents
live in ___ and ___ are in ___.  She has been 
in
a relationship with her boyfriend for 11 months and endorses
feeling safe in this relationship.  Denies history of legal
problems or access to weapons.  
Trauma/Domestic Violence: Denies

 
Family History:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Uncle with depression. 
-Otherwise denies family history of psychiatric illness,
hospitalizations, suicide attempts and substance use.
 
Physical Exam:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: not tested.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical patellar
 Coordination: Normal on finger to nose test, no intention 
tremor
noted
 -Gait: Good initiation.  Narrow-based, normal stride and arm
swing. 

 
Pertinent Results:
Hematology 
 COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 00:39    11.4* 4.77 13.2 41.6 87 27.7 31.7* 12.2 39.5 
434* 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 00:39    60.6   28.0 7.5 2.9 0.6     0.41 6.92 3.19 
0.86 0.33* 0.07 

1.Includes Metas, Myelos, and Pros.
 
 BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 00:39    434* 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 00:39    1051 11 0.7 137 4.3 ___ 

1.If fasting, 70-100 normal, >125 provisional diabetes
 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Tricycl 
___ 00:39    NEG NEG1 NEG NEG2 
 
 

 
Brief Hospital Course:
The patient responded well to this brief hospital admission.  
She initially presented somewhat withdrawn, regressed and was 
unhappy to have to be in the hospital.  After 24 hours she 
became more comfortable, started attending groups, was engaged 
in our individual sessions and benefited from family meetings. 
She explained how feeling rejected by her boyfriend was the 
ultimate stressor that made her feel in intensity suicidal.  On 
___ we discussed the diagnosis of borderline personality 
disorder.  We did a diagnostic disclosure, took the DSM-5 and 
went through the different criteria.  She met 7 out of the 9 
personality disorder.  She describes frantic efforts to avoid 
real or imagined abandonment.  She experiences a pattern of 
unstable and intense interpersonal relationships characterized 
by alternating between extremes of idealization and devaluation. 
 She has an unstable sense of self, is impulsive spending and 
binge drinking.  She has chronic suicidal thoughts, regularly 
cuts.  She experiences in affect of instability due to marked 
reactivity of mood and has chronic feelings of emptiness.
We talked about what the diagnosis of borderline personality 
means, we gave her some information to read on.  We also printed 
out some guidelines for the family

Her mental status examination on discharge: She was alert and 
oriented.  Appeared her stated age, was engaged, help seeking.  
She described her mood as "much better".  Her affect was bright, 
congruent.  Her thought process was linear, no loosening of 
associations.  Her thought content was without suicidality, no 
homicidality.  She was not delusional, no perceptual 
abnormalities.  The patient's insight and judgment improve over 
the course of her admission.

Her suicide risk assessment on discharge:
Risk factors: History of chronic suicidal thoughts, diagnosis of 
borderline personality disorder, occasional binge drinking, 
conflict with the family, recent psychiatric admission
Protective factors: No history of suicide attempts, no current 
suicidal thoughts.  She is help seeking, has outpatient 
providers, is future oriented, has good social support.  She has 
family here in the ___ area.  She is currently sober, is in 
the relationship.
Suicide inquiry: The patient denies any suicidal ideation
Risk level: Low
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral DAILY oral contraceptive 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY 
RX *fluoxetine 10 mg one capsule(s) by mouth once a day Disp 
#*15 Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO BID:PRN anxiety 
RX *hydroxyzine HCl 25 mg one tab by mouth twice a day Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
4.  ___ (21) (norethindrone ac-eth estradiol) 1.5-30 
mg-mcg oral DAILY oral contraceptive 
Please discuss with your doctor as you have not been taking this 
medication.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder, depressed
Borderline Personality Disorder

 
Discharge Condition:
Mental status: Clear and coherent.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory and independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___